US08895566B2
Lithium hydroxide (6 mg, 0.146 mmol) was added to a solution of 5-((5R,7R)-5-methyl-7-(4-nitrobenzoyloxy)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)thiophene-2-carboxylate (32 mg, 0.073 mmol) in THF (0.5 mL) and water (0.5 mL). The reaction mixture was stirred at room temperature for 1 hour. LC-MS of the reaction mixture showed no more starting material. THF was removed under reduced pressure, and 1N HCl (5 mL) was added. The reaction mixture was extracted with EtOAc (3×5 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated to give 5-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)thiophene-2-carboxylic acid. The crude mixture was used directly in the next step without further purification.

reactant | Lithium hydroxide | 0.146 mmol, 6 mg | [OH-].[Li+]
reactant | 5-((5R,7R)-5-methyl-7-(4-nitrobenzoyloxy)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)thiophene-2-carboxylate | 0.073 mmol, 32 mg | C[C@@H]1C[C@H](C=2N=CN=C(C21)C2=CC=C(S2)C(=O)[O-])OC(C2=CC=C(C=C2)[N+](=O)[O-])=O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
product | 5-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)thiophene-2-carboxylic acid | O[C@@H]1C[C@H](C2=C1N=CN=C2C2=CC=C(S2)C(=O)O)C | C13H12N2O3S
